US07582657B2
3-Methoxyphenyl (2E)-3-[4-(tert-butyl)phenyl]prop-2-enoate.
To a 100 mL round-bottomed flask equipped with magnetic stirring was added 4-tert-butyl-trans-cinnamic acid (500 mg, 2.45 mmol, EMKA-Chemie), CH2Cl2 (10 mL), and DMF (10 uL) under N2. The solution was treated dropwise with oxalyl chloride (4.0 mL, 8.0 mmol, 2.0 M in CH2Cl2, Aldrich) then stirred at 25° C. for 1 h. The reaction mixture was concentrated in vacuo and the residue treated with 3-methoxyphenol (269 uL, 2.45 mmol, Aldrich), THF (20 mL) and satd K2CO3 (15 mL). The reaction mixture was stirred at 25° C. overnight, then acidified to pH 4.5 with 1 N HCl. The mixture was extracted with EtOAc (2×30 mL), the combined organic extract was dried and concentrated in vacuo. Purification by silica gel chromatography (5:1 hexane:EtOAc) provided the title product as a white solid. MP 83° C. MS (ESI, pos. ion) m/z: 311 (M+1).

reactant | 4-tert-butyl-trans-cinnamic acid | 2.45 mmol, 500 mg | C(C)(C)(C)C1=CC=C(/C=C/C(=O)O)C=C1 | C13H16O2
reactant | oxalyl chloride | 8.0 mmol, 2.0 M, 4.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methoxyphenol | 2.45 mmol, 269 uL | COC=1C=C(C=CC1)O | C7H8O2
reactant | K2CO3 | 15 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 uL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Methoxyphenyl (2E)-3-[4-(tert-butyl)phenyl]prop-2-enoate | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)OC1=CC(=CC=C1)OC | C20H22O3
